US04698333
26.3 g of 3,4-dichlorophenylhydroxymalonic acid diamide were dissolved in 50 ml of pyridine, and 17.1 g of o-chlorobenzoyl chloride were added at below 30° C. After one hour, the mixture was stirred into cold 1NCl, the precipitate was taken up in ethyl acetate, the mixture was extracted by shaking and the extract was worked up. 26.5 g of crude product remained, and were recrystallised from 400 ml of ethanol. 13 g of pure 3,4-dichlorophenyl-(2-chlorobenzoyloxy)-malonic acid diamide of melting point 220° C. were obtained.

reactant | 3,4-dichlorophenylhydroxymalonic acid diamide | 26.3 g | ClC=1C=C(C=CC1Cl)C(C(=O)N)(C(=O)N)O | C9H8Cl2N2O3
reactant | o-chlorobenzoyl chloride | 17.1 g | ClC1=C(C(=O)Cl)C=CC=C1 | C7H4Cl2O
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3,4-dichlorophenyl-(2-chlorobenzoyloxy)-malonic acid diamide | 13 g | ClC=1C=C(C=CC1Cl)C(C(=O)N)(C(=O)N)OC(C1=C(C=CC=C1)Cl)=O | C16H11Cl3N2O4
